US07829582B2
(R)-3-(3,5-Dichloro-4′-fluoro-biphenyl-4-ylmethyl)-1-(1-methanesulfonyl-piperidin-4-yl)-pyrrolidin-2-one
Treat a solution of (R)-3-(3,5-Dichloro-4′-fluoro-biphenyl-4-ylmethyl)-1-piperidin-4-yl-pyrrolidin-2-one trifluoroacetic acid (Preparation 29) (0.10 g, 0.19 mmol) in CH2Cl2 (3 mL) with methanesulfonyl chloride (0.02 mL, 0.28 mmol) and triethylamine (0.07 mL, 0.48 mmol) and stir the reaction for 1 hr at room temperature. Quench the reaction with 1N HCl and extract with Et2O. Wash the organic with brine, dry over MgSO4, and filter. Remove the solvent to afford 0.07 g (73%) of product. MS (m/e): 500 (M+1).

reactant | (R)-3-(3,5-Dichloro-4′-fluoro-biphenyl-4-ylmethyl)-1-piperidin-4-yl-pyrrolidin-2-one trifluoroacetic acid | 0.19 mmol, 0.10 g | FC(C(=O)O)(F)F.ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)C1CCNCC1)=O)Cl)C1=CC=C(C=C1)F
reactant | methanesulfonyl chloride | 0.28 mmol, 0.02 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.48 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(3,5-Dichloro-4′-fluoro-biphenyl-4-ylmethyl)-1-(1-methanesulfonyl-piperidin-4-yl)-pyrrolidin-2-one | 0.07 g, 73% | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)C1CCN(CC1)S(=O)(=O)C)=O)Cl)C1=CC=C(C=C1)F | C23H25Cl2FN2O3S
